Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Stress incontinence, pelvic organ prolapse
 
Major Surgical or Invasive Procedure:
lysis of adhesions, robotic-assisted sacrocervicoplexy, 
transvaginal tape, cystoscopy

 
History of Present Illness:
Pt is a ___ y.o. female with PMH of stress urinary
incontinence, nocturia, cystocele, vaginal vault prolapse, and
levator tenderness presenting today for pessary check.

Pt reports that she had planned for surgical management of her
POP, however had to cancel her surgery due to personal reasons. 
Pt states that she has been using pessary until she can
reschedule surgery for POP, but states that she would like to
proceed with surgical management for her POP in ___ if
possible.  

Pt states that she has not had pessary changed since ___ due
to life circumstances.  Pt reports that she feels as if her
pessary had shifted at some point, and states that she has had
some subsequent lower abdominal discomfort and vaginal 
discomfort
for the past 1.5-2 months that feels like constant
"contractions."  Pt also states that she working extra hours and
doing her exercise classes frequently.  Pt states that she has
taken Tylenol without significant palliative effect.  Pt reports
increased urinary frequency, voiding ___, and
continued SUI and UUI daily for 2 months; pt reports that she
sometimes leaks urine without being aware of it and changes her
liner 8x/day.  Pt states that she has previously been on
medication for OAB approx. ___ years ago, prescribed by Dr.
___ Urology at ___, though states that she
discontinued this medication due to nausea that it caused at the
time of use. 

Pt reports vaginal discharge, but denies vaginal odor; pt states
that she had been compliant with Trimosan jelly, but has not 
used
it for the past 2 weeks as she ran out.  Pt reports pink "tinge"
in vaginal secretions ___ times since ___.

Pt denies constipation and reports regular daily BMs.  Pt 
reports
occasional dysuria, but denies dysuria today.  Pt denies f/c.
 
Past Medical History:
PMH: Fibromyalgia, H.o Breast cancer, Nerve damage to her hands
PSH: TAH BSO for endometriosis, Breast Lumpectomy, Shoulder 
arthroscopy

 
Social History:
___
Family History:
NC
 
Physical Exam:
VSS
Gen: NAD
CV: RRR
Lungs: CTA
Abd: soft, non-tender
GU: minimal vaginal bleeding
Ext: no edema, tenderness
 
Pertinent Results:
___ 08:45AM   WBC-8.1 RBC-4.49 HGB-14.8 HCT-44.1 MCV-98 
MCH-33.0* MCHC-33.6 RDW-12.6 RDWSD-45.3
___ 08:45AM   PLT COUNT-236
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing lysis of adhesions, robotic-assisted 
sacrocervicoplexy, transvaginal tape, cystoscopy.
Please see the operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid/toradol. She 
had one episode of emesis that resolved with Zofran.
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone, ibuprofen, acetaminophen.
By post-operative day _1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
ibuprofen
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
Do not take more than 4000mg acetaminophen (tylenol) in 24 hours 

RX *acetaminophen 500 mg ___ tablet(s) by mouth Every 6 hours 
Disp #*50 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
Take with oxycodone to prevent constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice per day 
Disp #*50 Capsule Refills:*0
3. Ibuprofen 600 mg PO Q6H:PRN Pain 
Take with food to prevent stomach upset 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Every 6 hours Disp 
#*50 Tablet Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Do not drive or drink alcohol while taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*50 Tablet Refills:*0
5. Estrogens Conjugated 1 gm VG EVERY OTHER DAY Duration: 3 
Weeks 
Use 1g every other day for 2 weeks then 1 g twice a week 
RX *conjugated estrogens [Premarin] 0.625 mg/gram Use 1g every 
other day for 2 weeks then 1 g twice a week as above Disp #*1 
Gram Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.
* If you have staples, they will be removed at your follow-up 
visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___